US06444668B1
To a mixture of 8-methoxy-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (2.1 g, 10.1 mmol), sodium acetate (1.5 g, 18 mmol) in acetic acid (30 mL) was added bromine (0.62 mL, 12 mmol) at ambient temperature. After 30 minutes, the solution was treated with a concentrated ammonium hydroxide solution (50 mL). The precipitate was collected on a filter and washed with water (3×20 mL) to yield 6-bromo-8-methoxy-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (2.7 g, 93%) as off-white solid: MS (ESI) m/z 286, 288 [M +H]+.

reactant | 8-methoxy-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 10.1 mmol, 2.1 g | COC1=CC=CC=2C(OC(NC21)=O)(C)C | C11H13NO3
reactant | sodium acetate | 18 mmol, 1.5 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 12 mmol, 0.62 mL | BrBr | Br2
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 6-bromo-8-methoxy-4,4-dimethyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 2.7 g, 93% | BrC=1C=C(C2=C(C(OC(N2)=O)(C)C)C1)OC | C11H12BrNO3
